US09388189B2
(S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide
(S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.23 mmol) was treated with N-(2-ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide (149 mg, 0.34 mmol), 2M cesium carbonate (340 μl, 0.68 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (19 mg, 0.02 mmol) according to the method described in Example 3 to give 47 mg (27% yield) of the title compound. Purity 85%.

reactant | (S)-2-(1-((6-Amino-5-bromopyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.23 mmol, 100 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)Br | C19H18BrN7O
reactant | N-(2-ethoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide | 0.34 mmol, 149 mg | C(C)OC1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)O)C)B1OC(C(O1)(C)C)(C)C | C20H27BN2O6S
reactant | cesium carbonate | 0.68 mmol, 2M, 340 μl | C([O-])([O-])=O.[Cs+].[Cs+]
product | (S)—N-(5-(4-Amino-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidin-5-yl)-2-ethoxypyridin-3-yl)-4-hydroxy-3-methylbenzenesulfonamide | 47 mg, 27% yield | NC1=NC=NC(=C1C=1C=C(C(=NC1)OCC)NS(=O)(=O)C1=CC(=C(C=C1)O)C)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C33H33N9O5S
